US03969506
10-Benzyl-7-hydroxy-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one ##SPC12##
One gram of 10-benzyl-7-methoxy-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one is added slowing to 10 ml. of 48% hydrobromic acid and the resulting mixture refluxed with stirring for 2 hours. The resulting mixture is cooled and the precipitated material filtered off and dissolved in 1N. sodium hydroxide. The resulting solution is washed twice with methylene chloride and slowly acidified to about pH6 with 2N hydrochloric acid to form a crystalline material which is filtered off, washed with water, dried by suction and dissolved in chloroform and a minor amount of methanol, treated with charcoal and concentrated on a steam bath to crystallize 10-benzyl-7-hydroxy-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one, m.p. 225°-227°C.

reactant | 10-benzyl-7-methoxy-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one | One gram | C(C1=CC=CC=C1)N1C=2N(C(C3=CC(=CC=C13)OC)=O)CCN2 | C18H17N3O2
reactant | hydrobromic acid | Br | BrH
product | 10-Benzyl-7-hydroxy-2,3-dihydro-imidazo[2,1-b]quinazolin-5(10H)-one | C(C1=CC=CC=C1)N1C=2N(C(C3=CC(=CC=C13)O)=O)CCN2 | C17H15N3O2
